US07109339B2
6-Methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole hydrochloride (36.6 g, 141.2 mmol) was suspended in TFA (200 mL). The mixture was cooled to 0° C. Et3SiH (32.86 g, 282.6 mmol) was added slowly. The reaction was stirred at rt for 18 h. Add hexane (2×300 mL), separate the acid layer, then basified with 50% NaOH until pH=14. Extract reaction with CHCl3 (3×300 mL). The combined organic layers were washed with brine, dried, and concentrated to afford a light brown amorphous solid cis-6-methyl-2,3,4,4a,5,9b-hexahydro-1H-pyrido[4,3-b]indole (20.7 g, 110.1 mmol, 78%). 1H NMR (CDCl3, 300 MHz) δ 6.90 (1H, d, 7.3 Hz), 6.82 (1H, d, 7.4 Hz), 6.62 (1H, t, 7.3 Hz), 3.77–3.82 (1H, m), 2.65–3.08 (5H, m), 2.13 (3H, s), 1.72–1.92 (2H, m) ppm.

reactant | 6-Methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole hydrochloride | 141.2 mmol, 36.6 g | Cl.CC1=CC=CC=2C3=C(NC12)CCNC3
reactant | Et3SiH | 282.6 mmol, 32.86 g | [SiH](CC)(CC)CC | C6H16Si
solvent | TFA | 200 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | cis-6-methyl-2,3,4,4a,5,9b-hexahydro-1H-pyrido[4,3-b]indole | 110.1 mmol, 20.7 g, 78% | CC1=CC=CC=2[C@@H]3[C@H](NC12)CCNC3 | C12H16N2
